US05371080
Ethyl 5-morpholino-imidazo[1,5-a] quinazoline-3-carboxylate (Compound XII)
A solution of potassium t-butoxide (2.1 g, 19 mmol) in dry DMF (15 ml) was added during 15 min. at 0°-5° C. to a stirred solution of 2-chloro-4-morpholino-quinazoline (3.0 g, 12 mmol) and ethyl isocyanoacetate (2.1 g, 19 mmol) in dry DMF (40 ml). The mixture was stirred at room temperature for 2 hours. Then glacial acetic acid (2 ml) was added and the solvent was evaporated in vacuo. The residue was triturated with a mixture of water (50 ml) and ethyl acetate (10 ml) giving the title compound as a pale yellow precipitate. The product was collected by filtration and rinsed with water and ethyl acetate and dried. Yield 3.6 g (91%), m.p. approx. 165° C., resolidifies to give crystals melting at 195.5°-196.5° C.

reactant | potassium t-butoxide | 19 mmol, 2.1 g | CC(C)([O-])C.[K+]
reactant | 2-chloro-4-morpholino-quinazoline | 12 mmol, 3.0 g | ClC1=NC2=CC=CC=C2C(=N1)N1CCOCC1 | C12H12ClN3O
reactant | ethyl isocyanoacetate | 19 mmol, 2.1 g | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | Ethyl 5-morpholino-imidazo[1,5-a] quinazoline-3-carboxylate | O1CCN(CC1)C1=NC=2N(C3=CC=CC=C13)C=NC2C(=O)OCC | C17H18N4O3
